US06589977B1
To a solution of indole (66 mg, 0.21 mmol) dissolved in toluene (1 mL) was added 0.95M ethylmagnesium bromide (0.5 mL, 0.47 mmol) at 40 ° C., and the whole was stirred at 40° C. for 45 minutes. Successively, a solution of 2-bromo-3-(1-methyl-1H-indol-3-yl)-N-methylmaleimide (66 mg, 0.21 mmol) dissolved in toluene (3 mL) was added thereto, followed by stirring under heating and refluxing for 2 hours. After 20% aqueous citric acid solution (1 mL) was added thereto under ice cooling and the whole was stirred, toluene was removed by concentration under reduced pressure and the resulting concentrate was extracted with ethyl acetate. The extract was dried over sodium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=1:1) to obtain 3-(1H-indol-3-yl)-2-(1-methyl-1H-indol-3-yl)-N-methylmaleimide (71 mg, 96.8%) as red solids.

reactant | indole | 0.21 mmol, 66 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ethylmagnesium bromide | 0.47 mmol, 0.95M, 0.5 mL | C(C)[Mg]Br
reactant | 2-bromo-3-(1-methyl-1H-indol-3-yl)-N-methylmaleimide | 0.21 mmol, 66 mg | BrC=1C(=O)N(C(C1C1=CN(C2=CC=CC=C12)C)=O)C | C14H11BrN2O2
reactant | citric acid | 1 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1H-indol-3-yl)-2-(1-methyl-1H-indol-3-yl)-N-methylmaleimide | 71 mg, 96.8% | N1C=C(C2=CC=CC=C12)C1=C(C(=O)N(C1=O)C)C1=CN(C2=CC=CC=C12)C | C22H17N3O2
